US03995052
1-Methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran-1-propionic acid (X; R1 = CH3, R2, R3, R4, R5, R6 and R7 = H, X = O and Y1 = CH2CH2COOH)
A mixture of indene-3-ethanol (15 g), dry benzene (300 ml), levulinic acid (22.6 g), boron trifluoride etherate (3 ml) and hydrated alkali-aluminum silicate (Molecular Sieves No. 4) is stirred at ambient temperature for 2 hr.

reactant | indene-3-ethanol | 15 g | C1C=C(C2=CC=CC=C12)CCO | C11H12O
reactant | levulinic acid | 22.6 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | boron trifluoride etherate | 3 ml | B(F)(F)F.CCOCC
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-Methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran-1-propionic acid | CC1(OCCC2=C1CC=1C=CC=CC12)CCC(=O)O | C16H18O3
